US07605286B2
Methyl L-lactate (208 mg, 2 mmol) was dissolved in benzotrifluoride (2.0 mL), pyridinium p-toluenesulfonate (PPTS, 50 mg, 0.2 mmol) was added and then 2-(chloromethyl)-3,5-dioxahexa-1-ene (manufactured by Tokyo Kasei Kogyo Co., Ltd., 327 mg, 2.4 mmol) was added, and the mixture was stirred at room temperature for 24 hrs. Saturated aqueous sodium hydrogencarbonate solution (3 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (4 mL). The organic layer was washed with saturated aqueous sodium hydrogencarbonate solution (2 mL) and dried over anhydrous magnesium sulfate (0.5 g), and the solvent was evaporated under reduced pressure to give methyl (S)-2-(methoxymethoxy)propionate (248 mg, yield 84%).

reactant | Methyl L-lactate | 2 mmol, 208 mg | C([C@@H](O)C)(=O)OC | C4H8O3
reactant | pyridinium p-toluenesulfonate | 0.2 mmol, 50 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | 2-(chloromethyl)-3,5-dioxahexa-1-ene | 2.4 mmol, 327 mg | ClCC(=C)OCOC | C5H9ClO2
reactant | sodium hydrogencarbonate | 3 mL | C(O)([O-])=O.[Na+]
solvent | benzotrifluoride | 2.0 mL | C1(=CC=CC=C1)C(F)(F)F | C7H5F3
product | methyl (S)-2-(methoxymethoxy)propionate | 248 mg, yield 84% | COCO[C@H](C(=O)OC)C | C6H12O4
